US07776910B2
A concentrated solution of ammonium hydroxide (2 mL) was added to a solution of {3-[4-(3-fluoro-benzenesulfonyl)-2-methyl-phenyl]-pyrrolidin-1-yl}-acetic acid methyl ester (130 mg, 0.3321 mmol) in methanol (2 mL) and the resulting mixture was stirred at room temperature for 16 hours. Solvent was evaporated under reduced pressure and the crude material was purified via flash chromatography (DCM/MeOH/NH4OH) to give 0.102 g of 2-{3-[4-(3-fluoro-benzenesulfonyl)-2-methyl-phenyl]-pyrrolidin-1-yl}-acetamide of a white foam: MS (M+H)=377.

reactant | ammonium hydroxide | 2 mL | [OH-].[NH4+]
reactant | {3-[4-(3-fluoro-benzenesulfonyl)-2-methyl-phenyl]-pyrrolidin-1-yl}-acetic acid methyl ester | 0.3321 mmol, 130 mg | COC(CN1CC(CC1)C1=C(C=C(C=C1)S(=O)(=O)C1=CC(=CC=C1)F)C)=O | C20H22FNO4S
solvent | methanol | 2 mL | CO | CH4O
product | 2-{3-[4-(3-fluoro-benzenesulfonyl)-2-methyl-phenyl]-pyrrolidin-1-yl}-acetamide | 0.102 g | FC=1C=C(C=CC1)S(=O)(=O)C1=CC(=C(C=C1)C1CN(CC1)CC(=O)N)C | C19H21FN2O3S
